US08497265B2
Step 2: Benzyl 3-((3-(1-Acetyl-4-Hydroxypiperidin-4-yl)Pyrazin-2-yl)Oxy)Azetidine-1-Carboxylate
A mixture of benzyl 3-((3-(4-chloropiperidin-4-yl)pyrazin-2-yl)oxy)azetidine-1-carboxylate trihydrochloride salt, 1-acetylimidazole (0.204 g, 1.851 mmol), DIEA (1.58 mL, 9.25 mmol), and 1-acetylimidazole (0.204 g, 1.851 mmol) in DCM (10 mL) was stirred at room temperature for 16 hours. H2O was added, and layers were separated. The organic extracts were dried over Na2SO4, concentrated and purified by silica gel chromatography using ISCO™ (0-60% EtOAc/Hexanes) to give the title compound. MS (M+1): 427 calc.

reactant | benzyl 3-((3-(4-chloropiperidin-4-yl)pyrazin-2-yl)oxy)azetidine-1-carboxylate trihydrochloride salt | Cl.Cl.Cl.ClC1(CCNCC1)C=1C(=NC=CN1)OC1CN(C1)C(=O)OCC1=CC=CC=C1
reactant | 1-acetylimidazole | 1.851 mmol, 0.204 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | DIEA | 9.25 mmol, 1.58 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-acetylimidazole | 1.851 mmol, 0.204 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | H2O | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 3-((3-(1-Acetyl-4-Hydroxypiperidin-4-yl)Pyrazin-2-yl)Oxy)Azetidine-1-Carboxylate | C(C)(=O)N1CCC(CC1)(O)C=1C(=NC=CN1)OC1CN(C1)C(=O)OCC1=CC=CC=C1 | C22H26N4O5
